US06749977B1
Next, 1-(4-methylbenzyl)-2-(2-hydroxyethyl)benzimidazole was prepared. A mixture of 1-(4-methylbenzyl)-2-methylbenzimidazole (5.1 g, 21 mmol), formaldehyde (82 mmol as 6.7 g of the 37% aqueous solution), and 6.5 g of pyridine were stirred magnetically and heated to 90° C. After 24 h, the mixture was cooled to ambient and concentrated at reduced pressure to deposit a tan oil. The product was purified by flash chromatography (silica gel, 75% dichloromcthane/25% ether), followed by recrystallization from a mixture of 15 mL of methanol plus 10 mL of water. The product was obtained as 1.5 g (41%) of a white solid. 1H NMR (CDCl3)δ 2.31 (s, 3H), 2.99 (t, J=5.4, 2H), 4.12 (t, J=5.4, 2H), 4.4 (br s, 1H), 5.29 (s, 2H), 6.94 (d, J=8.0, 2H), 7.10 (d, J=7.9, 2H), 7.25 (m, 3H), 7.73 (m, 1H). ES−MS m/e 267+ (M+1).

reactant | 1-(4-methylbenzyl)-2-methylbenzimidazole | 21 mmol, 5.1 g | CC1=CC=C(CN2C(=NC3=C2C=CC=C3)C)C=C1 | C16H16N2
reactant | formaldehyde | C=O | CH2O
solvent | pyridine | 6.5 g | N1=CC=CC=C1 | C5H5N
product | 1-(4-methylbenzyl)-2-(2-hydroxyethyl)benzimidazole | CC1=CC=C(CN2C(=NC3=C2C=CC=C3)CCO)C=C1 | C17H18N2O
